US20010021717A1
(E)-1-(4Methoxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one
To a stirred solution of 4-methoxybenzaldehyde (1.0 g, 7.3 mmol) and 3,4,5-trimethoxyacetophenone (1.54 g, 7.3 mmol) in methanol (30 ml) was added a 50% w/v solution of aqueous NaOH (1 ml). The mixture was stirred for 24 hours at room temperature, acidified with 2N HCl and extracted with chloroform (3×30 ml). The combined organic phase was dried over anhydrous MgSO4, filtered, and the solvent concentrated under vacou. The product was finally purified by column chromatography. Mass Spectrum m/e (M+1) 329.

reactant | 4-methoxybenzaldehyde | 7.3 mmol, 1.0 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 3,4,5-trimethoxyacetophenone | 7.3 mmol, 1.54 g | CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H14O4
reactant | NaOH | 1 ml | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | (E)-1-(4Methoxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one | COC1=CC=C(C=C1)\C=C\C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C19H20O5
